US04038391
Following the procedure of Example 15 but starting with 2-(7-chloro-1,8-naphthyridin-2-yl)-3-phenoxycarbonyloxy-isoindolin-1-one (5.1 g.) and 1-t.-butylpiperazine (5 g.) in acetonitrile (31 cc.), 2-(7-chloro-1,8-naphthyridin-2-yl)-3-(4-t.-butylpiperazin-1-yl)carbonyloxy-isoindolin-1-one (3.3 g.), melting at 240° C., is obtained.

reactant | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-phenoxycarbonyloxy-isoindolin-1-one | 5.1 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OC(=O)OC1=CC=CC=C1)=O | C23H14ClN3O4
reactant | acetonitrile | 31 cc | C(C)#N | C2H3N
product | butylpiperazine | 5 g | C(CCC)N1CCNCC1 | C8H18N2
